US05679700
Step B: 2-((Hydroxy(methyl)phosphinyl)methyl)-4-phenylbutanoic acid
Benzyl 2-((hydroxy(methyl)phosphinyl)methyl)-4-phenylbutanoate (433 mg, 1.25 mmol) was dissolved in 95% ethanol (8.0 mL) and catalyst (130 mg of 10% palladium on carbon) was added. After being stirred under hydrogen (1 atm.) for 20 h at room temperature, the mixture was filtered through a 1-cm plug of Celite with additional 95% ethanol (2×10 mL). Evaporation of the filtrate gave 350 mg of a colorless oil used directly in Step C.

reactant | Benzyl 2-((hydroxy(methyl)phosphinyl)methyl)-4-phenylbutanoate | 1.25 mmol, 433 mg | OP(=O)(C)CC(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C19H23O4P
solvent | ethanol | 8.0 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 130 mg | [Pd] | Pd
product | 2-((Hydroxy(methyl)phosphinyl)methyl)-4-phenylbutanoic acid | 350 mg | OP(=O)(C)CC(C(=O)O)CCC1=CC=CC=C1 | C12H17O4P
